US04202894
110 G. of a 70% sodium dihydro-bis-(2-methoxyethoxy)-aluminate solution in toluene are added dropwise at 25°-30° C. over a period of 90 minutes to a solution of 85 g. of 3-(p-tert.-amyl-phenyl)-2,3-dimethyl-acrylic acid ethyl ester in 400 ml. of absolute toluene and the mixture is subsequently warmed at 40° C. for 2 hours. The mixture is then cooled down to -10° C. and treated dropwise over 300 ml. of 2 N sodium hydroxide. The toluene phase is separated and the aqueous-alkaline phase is back-extracted twice with 300 ml. of toluene. The combined toluene phases are washed neutral with water, dried over sodium sulfate and evaporated. By distillation there is obtained pure 3-(p-tert.-amyl-phenyl)-2,3-dimethyl-allyl alcohol; nD20 =1.5311.

reactant | 3-(p-tert.-amyl-phenyl)-2,3-dimethyl-acrylic acid ethyl ester | C(C)OC(C(=C(C)C1=CC=C(C=C1)C(C)(C)CC)C)=O | C18H26O2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(p-tert.-amyl-phenyl)-2,3-dimethyl-allyl alcohol | C(C)(C)(CC)C1=CC=C(C=C1)C(=C(CO)C)C | C16H24O
